US04477464
The 3-amino-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one (0.267 g) is dissolved in 5 ml of methanol and 0.288 g of ethyl 2-oxo-4-phenylbutyrate is added. This is followed by the addition of a solution of 88 mg of sodium cyanoborohydride in 3 ml of methanol and 0.8 ml of glacial acetic acid. The reaction is stirred overnight under nitrogen and concentrated. The residue is dissolved in 20 ml of methylene chloride and washed with 10 ml of cold saturated sodium carbonate. After drying over magnesium sulfate the solution is concentrated and the residue purified to give 3-[N-(1-carboethoxy-3-phenylpropyl)amino]-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one.

reactant | 3-amino-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one | 0.267 g | NC1CN(C2=C(NC1=O)C=CC=C2)C | C10H13N3O
reactant | ethyl 2-oxo-4-phenylbutyrate | 0.288 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | sodium cyanoborohydride | 88 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
solvent | acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
product | 3-[N-(1-carboethoxy-3-phenylpropyl)amino]-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | C(=O)(OCC)C(CCC1=CC=CC=C1)NC1CN(C2=C(NC1=O)C=CC=C2)C | C22H27N3O3
